US08536179B2
e) N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-6-[6-(4-methyl-1-piperazinyl)-3-pyridinyl]-1H-indole-4-carboxamide
To a 20 mL microwave vial was added 6-bromo-N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-1H-indole-4-carboxamide (70 mg, 0.170 mmol), and 1-methyl-4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine (59.9 mg, 0.198 mmol). PdC12(dppf)-CH2Cl2 adduct (14.67 mg, 0.018 mmol) and sodium bicarbonate (45.3 mg, 0.539 mmol) were added followed by 1,2-Dimethoxyethane (DME) (5 mL) and Water (2 mL). The vial was sealed and the reaction was heated to 85° C. for 1 hr. The reaction was cooled and evaporated. The material was taken into Methanol/DMSO and was filtered through an acrodisk and purified by reverse phase Gilson HPLC (5-80% acetonitrile/water+0.1% TFA, YMC ODS-A C18 Column 75×30 mm ID S-5 um, 12 nM Column, 6 minutes) the desired fractions were collected and evaporated from 0.1N NaOH which provided the desired product N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-6-[6-(4-methyl-1-piperazinyl)-3-pyridinyl]-1H-indole-4-carboxamide (57 mg, 0.101 mmol, 56.2% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.68 (s, 1H) 8.89 (t, J=5.94 Hz, 1H) 8.66 (d, J=2.02 Hz, 1H) 8.09 (dd, J=8.59, 2.02 Hz, 1H) 7.91 (s, 1H) 7.80 (s, 1H) 7.60 (d, J=3.03 Hz, 1H) 6.99 (d, J=8.84 Hz, 1H) 6.89-6.96 (m, 2H) 5.66 (s, 1H) 4.85-4.98 (m, 1H) 4.39 (d, J=5.81 Hz, 2H) 3.63 (br. s., 4H) 3.11-3.24 (m, 2H) 2.7 (bs, 4H) 2.08 (s, 3H) 1.47 (d, J=6.57 Hz, 6H) 1.20 (t, 3H). MS (ES) [M+H]+ 542.4.

reactant | 6-bromo-N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-1H-indole-4-carboxamide | 0.170 mmol, 70 mg | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)NCC=1C(NC(=CC1NCC)C)=O | C21H25BrN4O2
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine | 0.198 mmol, 59.9 mg | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
reactant | sodium bicarbonate | 0.539 mmol, 45.3 mg | C([O-])(O)=O.[Na+]
reactant | 1,2-Dimethoxyethane | 5 mL | COCCOC | C4H10O2
catalyst | PdC12(dppf) CH2Cl2 | 0.018 mmol, 14.67 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | Water | 2 mL | O | H2O
product | N-{[4-(ethylamino)-6-methyl-2-oxo-1,2-dihydro-3-pyridinyl]methyl}-1-(1-methylethyl)-6-[6-(4-methyl-1-piperazinyl)-3-pyridinyl]-1H-indole-4-carboxamide | 0.101 mmol, 57 mg, 56.2% yield | C(C)NC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=2C=CN(C2C=C(C1)C=1C=NC(=CC1)N1CCN(CC1)C)C(C)C | C31H39N7O2
